US07098208B2
Step 3: N′-(7-Cyclobutyl-3-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-2,2,N,N-tetramethyl-propane-1,3-diamine
6-Chloro-7-cyclobutyl-3-phenyl-[1,2,4]triazolo[4,3-b]pyridazine (100 mg) and N,N,2,2-tetramethyl-1,3-propanediamine (2 ml) were heated together in a sealed tube at 70° C. for 16 hours. Cooled and water (5 ml) added. Precipitate filtered, washed (water, ether) and dried. 1H NMR (250 MHz, DMSO) δ 1.20 (6H, s), 2.10 (1H, m), 2.24–2.65 (14H, m), 3.53–3.70 (2H, m), 7.69–7.82 (4H, m), 8.03 (1H,s), 8.70 (2H, m). MS (ES+) MH+=379

reactant | 6-Chloro-7-cyclobutyl-3-phenyl-[1,2,4]triazolo[4,3-b]pyridazine | 100 mg | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)C2CCC2 | C15H13ClN4
reactant | N,N,2,2-tetramethyl-1,3-propanediamine | 2 ml | CN(CC(CN)(C)C)C | C7H18N2
solvent | water | 5 ml | O | H2O
product | N′-(7-Cyclobutyl-3-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-2,2,N,N-tetramethyl-propane-1,3-diamine | C1(CCC1)C1=CC=2N(N=C1NCC(CN(C)C)(C)C)C(=NN2)C2=CC=CC=C2 | C22H30N6
